US07705023B2
5-(4-Isopropoxyphenyl)-1-phenylindole-2-carboxylic acid
The title compound was prepared in accordance with Example 10 using 5-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester and iodobenzene.

reactant | 5-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C1=CC=C(C=C1)OC(C)C | C20H21NO3
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 5-(4-Isopropoxyphenyl)-1-phenylindole-2-carboxylic acid | C(C)(C)OC1=CC=C(C=C1)C=1C=C2C=C(N(C2=CC1)C1=CC=CC=C1)C(=O)O | C24H21NO3
